US07968573B2
A mixture of 1.9 g of 2-pyrrolecarbaldehyde, 2.3 g of 2-chloropyrimidine, 7.8 g of cesium carbonate and 20 ml of N-methylpyrrolidone was stirred at 130° C. for 13 hours, and then allowed to cool to room temperature. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.94 g of 1-(2-pyrimidinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 2-pyrrolecarbaldehyde | 1.9 g | N1C(=CC=C1)C=O | C5H5NO
reactant | 2-chloropyrimidine | 2.3 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | cesium carbonate | 7.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | O | H2O
product | 1-(2-pyrimidinyl)-1H-pyrrole-2-carbaldehyde | 0.94 g | N1=C(N=CC=C1)N1C(=CC=C1)C=O | C9H7N3O
